US04115416
56.5 Grams of p-(1-cyclohexenyl)-anisol and 125 g of pyridine-hydrochloride are thoroughly mixed and heated for 3 hours in an atmosphere of nitrogen to 180° C. The reaction mixture is cooled to room temperature, treated with water and extracted with 3 × 400 ml of benzene. The benzene extracts are washes with 3 × 300 ml of water, dried over sodium sulphate and evaporated in vacuo. The solid residue yields the crude p-(1-cyclohexenyl)-phenol (m.p. 115-119° C), which can be purified by recrystallisation from benzene and then melts at 120°-122° C.

reactant | p-(1-cyclohexenyl)-anisol | C1(=CCCCC1)C1=CC=C(C=C1)OC | C13H16O
reactant | pyridine-hydrochloride | 125 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | p-(1-cyclohexenyl)-phenol | C1(=CCCCC1)C1=CC=C(C=C1)O | C12H14O
